datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:82]/[C:11](=[CH:10]/[C:61]1=[CH:62][CH:63]=[N:64][CH:73]=[CH:72]1)[O-:12].Cl[C:31]1=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41](Cl)[C:20]1=[O:21]>>CC[O:82][C:11]([CH:10]([C:20]1([O-:21])[C:31](Cl)=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41]1Cl)[C:61]1=[CH:62][CH:63]=[N:64][CH:73]=[CH:72]1)=[O:12] 10,11=10,20;12=11,12;20,21=21"
"F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1.[CH:10]1=[CH:11][NH:12][C:62]2=[C:61]1[CH:72]=[CH:73][CH:64]=[N:63]2>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[CH:73][CH:64]=[N:63]3)[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20;12=11,12"
"C[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C(C)(C)C)C=C1.C[Si](C)(C)CCCC[CH:11]([H:10])[CH2:62][Si:63](C)(C)C>>C[N+]1=C([C:22](=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C(C)(C)C)C=C1.C[Si](C)(C)CCCC[CH+:11][CH2:62][Si:63](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:12][CH:11]=[CH2:10].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1>>CC[O+:12]=[CH:11][CH2:10][C:20]1([C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2 10,11=10,20;12=11,12"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.C[C:11](=[CH2:10])[C:62](C)=[CH2:63]>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][C+:11](C)[C:62](C)=[CH2:63])[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"CC1(C)[O:62][C:11]([O-:12])=[C:10]([I+:72]C2=CC=CC=C2)[C:81](=[O:82])[O:92]1.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1>>CC1(C)[O:62][C:11](=[O:12])[C:10]([Cl:20])([I+:72]C2=CC=CC=C2)[C:81](=[O:82])[O:92]1.Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([N:21]([F:20])[S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.CC[C:11]1([H:10])[O:12]C(C)C(C)[O:62]1>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.CC[C:11]1=[O+:12]C(C)C(C)[O:62]1.[H:10][F:20] 10,11=10,20;12=11,12;20,21=21"
"CC(C)C1=CC=CC(C(C)C)=C1[N:62]1[P:11]([H:10])[N:72](C2=C(C(C)C)C=CC=C2C(C)C)[CH:64]=[CH:63]1.COC1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1>>CC(C)C1=CC=CC(C(C)C)=C1[N:62]1[P+:11][N:72](C2=C(C(C)C)C=CC=C2C(C)C)[CH:64]=[CH:63]1.COC1=CC=C([C:22]2=[CH:21][CH:20]([H:10])[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1 10,11=10,20;20,21=21,22;22,23=23"
"C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1.[C:10](=[C:11]=[N-:12])([C:61]#[N:62])[C:73]1=[CH:74][CH:75]=[CH:76][CH:84]=[CH:85]1>>C1CC[C:22]([O-:23])=[CH:21][CH:20]([C:10]([C:11]#[N:12])([C:61]#[N:62])[C:73]2=[CH:74][CH:75]=[CH:76][CH:84]=[CH:85]2)C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"F[S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34].O=[N+]([O-])C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1>>O=[N+]([O-])C1=CC=C([CH:10]([C:11](=[N+:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[CH2:20][CH-:21][S:32](F)(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([P:11](C2=CC=CC=C2)(C2=CC=CC=C2)=[CH:10][C:61]#[N:62])C=C1.C[C:21]1=[CH:20]CC[C:22]1=[O:23]>>C[C:21]1=[C:22]([O-:23])CC[CH:20]1[CH:10]([P+:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:61]#[N:62] 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)O[C:62]([NH:61][NH2:10])=[O:63].[C:20](=[S:21])=[S:31]>>CC(C)(C)O[C:62]([NH:61][NH2+:10][C:20]([S-:21])=[S:31])=[O:63] 10=20;20,21=21"
"CC[O:33][C:22](/[CH:21]=[CH:20]/[C:41](=[O:42])[O:52]CC)=[O:23].C[C:81]([CH-:10][N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82]>>CC[O:33][C:22](=[CH:21][CH:20]([CH:10]([N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[C:81](C)=[O:82])[C:41](=[O:42])[O:52]CC)[O-:23] 10=20;20,21=21,22;22,23=23"
"C1=CC=C(C[N+:23](CC2=CC=CC=C2)=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1.[H:10][Sn:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1>>C1=CC=C(C[N:23](CC2=CC=CC=C2)[CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1.[Sn+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]23CCC(CC2)CC3)[C:22](C)=[O:23])[CH:43]=[CH:44]1.C[C:72]1=[CH:71][N-:10][CH:61]=[N:62]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[CH:61]=[N:62][C:72](C)=[CH:71]2)[C:21](C[N+]23CCC(CC2)CC3)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10=20;20,21=21,22;22,23=23"
